US04650810
(ii) 3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-acetic acid, methyl ester
A solution of 3-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-acetic acid (1 g) in methanol (50 ml) containing sulphuric acid (2 drops) was boiled under reflux for 1.5 h under nitrogen. Removal of the solvent gave a solid (1.2 g). Part of this material (0.5 g) was purified by column chromatography (Whatman MFC silica, 25 g). Elution with ethyl acetate-light petroleum (1:1) gave the title compound as yellow crystals (0.4 g) m.p. 121°-124°.

reactant | 3-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-acetic acid | 1 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)CC(=O)O | C20H16N2O4
reactant | methanol | 50 ml | CO | CH4O
catalyst | sulphuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
product | 3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-acetic acid, methyl ester | 1.2 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)CC(=O)OC | C21H18N2O4
